data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2001,2222,[CH3:11][O:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:13]([O:12][CH3:11])=[O:14])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[NH:16][C:17]2([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,27.198203187140287,-9.40675172874344
4605,5251,[CH3:10][O:11][C:12](=[O:13])[CH:14]=[N+:15]([CH3:16])[C-:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]([CH3:16])[C:17]1([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,36.14805591430714,-12.364418836131794
595,652,[CH3:14][N:15]=[NH+:16][N-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]=[C:7]2[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH:1]12[CH:2]([CH:3]3[O:4][CH:5]1[CH:6]=[C:7]3[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[N:15]([CH3:14])[NH:16][N:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,29.947632911977767,-20.65122843603965
3423,3893,[CH3:10][c-:11]1[nH+:12][c:13]([C:14]#[N:15])[o:16][c:17]1=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]2([C:14]#[N:15])[NH:12][C:11]1([CH3:10])[C:17](=[O:18])[O:16]2,water,298.15,18.08533456702921,-7.682791460426597
4173,4776,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[NH+:16]=[C:17]([CH3:18])[C:19](=[O:20])[O:21][CH3:22].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14]#[N:15])[NH:16][C:17]1([CH3:18])[C:19](=[O:20])[O:21][CH3:22],water,298.15,20.102608923320663,-15.055457588547206
1512,1667,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([NH+:18]=[CH:19][C:20](=[O:21])[O:22][CH3:23])[C:24]([CH3:25])=[O:26].[CH3:1][NH:2][C:3](=[O:4])/[C:5]([F:6])=[C:7](\[F:8])[C:9](=[O:10])[NH:11][CH3:12]>>[CH3:1][NH:2][C:3](=[O:4])[C@@:5]1([F:6])[C@:7]([F:8])([C:9](=[O:10])[NH:11][CH3:12])[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:24]([CH3:25])=[O:26])[NH:18][CH:19]1[C:20](=[O:21])[O:22][CH3:23],water,298.15,16.5868475266455,-17.385711628752365
2675,2973,[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[C:28]([C:29](=[O:30])[O:31][CH3:32])=[N+:33]([CH3:34])[C-:35]([CH3:36])[CH3:37]>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:26]([O:25][CH3:24])=[O:27])([C:29](=[O:30])[O:31][CH3:32])[N:33]([CH3:34])[C:35]2([CH3:36])[CH3:37],water,298.15,41.42583999667965,-18.17776147351132
1485,1640,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[N+:17]([CH3:18])=[C:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[N:17]([CH3:18])[C:19]2([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,33.61784275375472,-18.19316002960693
2787,3097,[CH3:19][NH:20][C:21](=[O:22])[C-:23]([N+:24]#[C:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[C:32](=[O:33])[O:34][CH3:35].[F:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[F:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:25]([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)=[N:24][C:23]2([C:21]([NH:20][CH3:19])=[O:22])[C:32](=[O:33])[O:34][CH3:35],water,298.15,20.62833614253391,-41.13392273501598
2769,3078,[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[C-:27]([O+:28]=[CH:29][C:30]([CH3:31])=[O:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:27]([C:25]([NH:24][CH3:23])=[O:26])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[O:28][CH:29]2[C:30]([CH3:31])=[O:32],water,298.15,14.178829554484205,-42.4556284736924
